US07071201B2
Example 130: Synthesis of 1-[1-(4-fluorophenethyl)piperdin-4-yl]-6-formylindoline
A 2.5 M solution (50 ml) of n-butyllithium in hexane was added dropwise at −78° C. into a solution of 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-bromoindoline (40 g) in tetrahydrofuran (1 l) over 10 min. After 10 min, dimethylformamide (11.6 ml) was added thereto and the resultant mixture was warmed to room temperature. Next, a saturated aqueous solution of ammonium chloride (200 ml) and ethyl acetate (500 ml) were added thereto and the layers were separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the crude title compound (37.5 g). A portion of this crude product was purified by silica gel column chromatography (ethyl acetate/ethanol system) to give the title compound as a yellow powder.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-bromoindoline | 40 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)Br)C=C1 | C21H24BrFN2
reactant | dimethylformamide | 11.6 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 1-[1-(4-fluorophenethyl)piperdin-4-yl]-6-formylindoline | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)C=O)C=C1 | C22H25FN2O
